US07144913B2
Step 1: 2-Bromo-4-methoxybenzaldehyde
To a solution of 2-bromo-4-fluorobenzaldehyde (50 g, 246 mmol), in MeOH (500 mL) in a 15° C. water bath was added a 25% solution of NaOMe/MeOH (88 mL). The mixture was stirred at r.t. for 1 hour followed by 2 hours at reflux. The solid was filtered and the filtrate was concentrated to dryness to give a second crop of solid. Both crops were taken up in CH2Cl2/H2O. After washing with H2O, the organic phase was dried (MgSO4), filtered, and evaporated to give an off-white solid (52.2 g).

reactant | 2-bromo-4-fluorobenzaldehyde | 246 mmol, 50 g | BrC1=C(C=O)C=CC(=C1)F | C7H4BrFO
reactant | NaOMe MeOH | 88 mL | C[O-].[Na+].CO
solvent | MeOH | 500 mL | CO | CH4O
solvent | CH2Cl2 H2O | C(Cl)Cl.O
product | 2-Bromo-4-methoxybenzaldehyde | 52.2 g | BrC1=C(C=O)C=CC(=C1)OC | C8H7BrO2
